US06492383B1
(1H-Indol-5-yl)-[6-(4-methylaminomethyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine
The title compound was prepared from methylamine and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. The product was converted to the mesylate salt analogous to example 17 being converted to the HCl salt. M.P. 140-147° C.; LC-MS: 386 (MH−); HPLC RT: 3.54 minutes.

reactant | methylamine | CN | CH5N
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
reactant | HCl | Cl | ClH
product | (1H-Indol-5-yl)-[6-(4-methylaminomethyl-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=C2)CNC | C22H19N5S
